US06348627B1
To a 500 ml round bottom flask equipped with magnetic stirrer, nitrogen inlet and addition funnel was charged 2.47 g (11.2 mmoles) of trimethyl sulfoxonium iodide, 0.448 g (11.2 mmole) of powdered sodium hydroxide, and 50 mls DMSO. The mixture was stirred at room temperature for 0.5 hour, followed by the rapid addition of 2.04 g (11.2 mmole) 2,6-difluoro-phenyl-3-buten-2-one in 25 ml DMSO in one portion. The reaction was stirred for 15 minutes at ambient temperature, poured into 200 mls of ice water, and then extracted with 150 ml of ethyl ether. The ether extract was washed with 4×100 mls of water, dried over anhydrous MgSO4, filtered, and concentrated in vacuuo on a rotary evaporator to afford 1.3 g crude product as a yellow oil. This was combined with 1.6 g from a similar reaction and the total crude of 2.9 g was chromatographed on silica with CH2Cl2. Fractions (#5-9) were combined and concentrated in vacuuo on a rotary evaporator to afford 1.5 g (92% purity by GC) of trans-1-(2,6 difluorophenyl)-2-acetylcyclopropane as a free flowing pale yellow liquid, in 28.8% yield.

reactant | trimethyl sulfoxonium iodide | 11.2 mmoles, 2.47 g | [I-].C[S+](=O)(C)C
reactant | sodium hydroxide | 11.2 mmole, 0.448 g | [OH-].[Na+]
reactant | 2,6-difluoro-phenyl-3-buten-2-one | 11.2 mmole, 2.04 g | FC1=C(C(=CC=C1)F)CC(C=C)=O | C10H8F2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 mls | CS(=O)C | C2H6OS
product | trans-1-(2,6 difluorophenyl)-2-acetylcyclopropane | 1.5 g, 92% | FC1=C(C(=CC=C1)F)[C@H]1[C@@H](C1)C(C)=O | C11H10F2O
